.subckt MCP6001 1 2 3 4 5 Vos=0.7m
dIcc 3 4 dvcc
.model dvcc d Vfwd=0.8 epsilon=100m Ron=3k ilimit=100uA
Cin 1 2 3p
c14 1 4 3p
C24 2 4 3p
S1 5 3 N002 5 Q
S2 4 5 5 N002 Q
A1 2 1 0 0 0 0 N002 0 OTA G={Avol/Rout} ref={Vos} Iout={slew*Cout} Cout={Cout} en={en} enk={enk} in={in} ink={ink}
+ incm={incm} incmk={incmk} Vhigh=1e308 Vlow=-1e308
C3 5 4 1p
C4 3 5 1p
R2 N002 4 {2*Rout} noiseless
R1 3 N002 {2*Rout} noiseless
R3 3 1 {2*Rin} noiseless
R4 3 2 {2*Rin} noiseless
R5 2 4 {2*Rin} noiseless
R6 1 4 {2*Rin} noiseless
G1 0 N002 4 N002 table(0 0 45 {2*slew*Cout})
G2 N002 0 N002 3 table(0 0 45 {2*slew*Cout})
.param Rout=100Meg
.param Cout={Avol/GBW/2/pi/Rout}
.model Q SW(Ron=30 Roff=100Meg Vt=0 Vh=-50m Vser={Rail} ilimit={Ilimit} noiseless level=2 epsilon={epsilon})
.param Slew=0.6Meg
.param Avol=500k GBW=1.Meg  ilimit=23m rail=0m  epsilon=1m
.param en=28n enk=235 in=0.6f ink=0 incm=0 incmk=0 Rin=10T
.ends MCP6001_AB
